US03934008
31. Z-Lys(BOC)-Phe-His-OMe
5.4 g of Z-Lys(BOC)-Phe-NH-NH2 in 40 ml of dimethylformamide are mixed at -16°C with 6.8 ml of 3.66 N HCl in dioxane and then with 1.5 ml of t-butyl nitrite. After 10 minutes at -10°C to -15°C, 3.5 ml of triethylamine are added. 3.64 g of H-His-OMe. 2 HCl are added in the solid form and 4.2 ml of triethylamine are thereafter added dropwise. The mixture is allowed to warm to 0°C over the course of 1 hour, with a pH of about 7 being set up by adding a total of 0.8 ml of triethylamine. After stirring overnight at 0°C the mixture is poured into 250 ml of water and the smeary product is obtained in the form of a powder by triturating with water. In a thin layer chromatogram on silica gel in chloroform-methanol (9:1) Rf = 0.4. Melting point 136°-137°C (from ethyl acetate).

reactant | Z-Lys(BOC)-Phe-NH-NH2 | 5.4 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C28H39N5O6
reactant | HCl | 3.66 N, 6.8 ml | Cl | ClH
reactant | t-butyl nitrite | 1.5 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | H-His-OMe. 2 HCl | 3.64 g | COC(=O)[C@H](CC1=CN=CN1)N.Cl.Cl
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
product | Z-Lys(BOC)-Phe-His-OMe | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H46N6O8
